US07851463B2
134.5 N-(2-Fluoro-4-pyrrolidin-3-yl-phenyl)-4-isopropyl-benzenesulfonamide
A mixture of N-[4-(1-benzyl-pyrrolidin-3-yl)-2-fluoro-phenyl]-4-isopropyl-benzenesulfonamide (170 mg, 0.31 mmol) and 10% palladium on carbon (20 mg) in ethyl acetate (25 ml) and acetic acid (10 ml) was hydrogenated over night (20% conversion). The reaction mixture was irradiated with an infra-red lamp for 3 h (complete conversion). The catalyst was filtered, and the solvent was removed under vacuum to yield an oil (45 mg, 64% purity, 26%).

reactant | N-[4-(1-benzyl-pyrrolidin-3-yl)-2-fluoro-phenyl]-4-isopropyl-benzenesulfonamide | 0.31 mmol, 170 mg | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C)F | C26H29FN2O2S
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-(2-Fluoro-4-pyrrolidin-3-yl-phenyl)-4-isopropyl-benzenesulfonamide | FC1=C(C=CC(=C1)C1CNCC1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C19H23FN2O2S
